US05015661
rac-6-Acetyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2-(phenyl-ethynyl)-2H-1-benzopyran.
A mixture of 0.3 g of rac-3,4-dihydro-2,5,7,8-tetramethyl-2-(phenylethynyl)-2H-1-benzopyran-6-ol, 7 ml of pyridine and 0.5 ml of acetic anhydride was allowed to sit at room temperature over night. The reagents were evaporated under reduced pressure, at the end azeotropically with toluene. The residue was crystallized from hexane to give 0.21 g of colorless crystals with m.p. 123°-125°.

reactant | rac-3,4-dihydro-2,5,7,8-tetramethyl-2-(phenylethynyl)-2H-1-benzopyran-6-ol | 0.3 g | CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C#CC2=CC=CC=C2 | C21H22O2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | rac-6-Acetyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2-(phenyl-ethynyl)-2H-1-benzopyran | 0.21 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C#CC2=CC=CC=C2)C)C1C)C)C | C23H24O3
